US04695649
Into a 500 ml four-neck flask equipped with a condenser tube and a thermometer are charged 56 g of benzyl p-hydroxybenzoate, 25 g of triethylamine and 160 ml of toluene. A suspension of 25 g of isophthalic dichloride in 100 ml of toluene is added dropwise with stirring while maintaining the mixture at 0°-3° C. over 3 hours. After addition, the mixture is further allowed to react at 0°-3° C. for 1 hour. Thereafter, the resulting reaction product is collected by filtration to obtain white crystals. The crystalline product is washed with 1500 ml of water twice and then with 1000 ml of methanol twice and subsequently, recrystallized from a mixture solvent of hexane-chloroform (1:1) to give di(p-benzyloxycarbonylphenyl)isophthalate melting at 105°-107° C. as white crystals.

reactant | benzyl p-hydroxybenzoate | 56 g | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | triethylamine | 25 g | C(C)N(CC)CC | C6H15N
reactant | isophthalic dichloride | 25 g | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | di(p-benzyloxycarbonylphenyl)isophthalate | C(C1=CC=CC=C1)OC(=O)C1=CC=C(C=C1)OC(C1=CC(C(=O)OC2=CC=C(C=C2)C(=O)OCC2=CC=CC=C2)=CC=C1)=O | C36H26O8
